US06197975B1
Step 3.2A [2-{2-(3,5-dimethylphenyl)-5-nitro-1H-indol-3-yl]ethyl}-[4-(4-methanesulfonylaminophenyl)butyl]carbamic acid tert-butyl ester
To a solution of N-[4-(4-{2-[2-(3,5-dimethylphenyl)-5-nitro-1H-indol-3-yl]ethylamino}butyl)phenyl]methanesulfonamide (prepared essentially as described in EXAMPLE 2.1 StepB, 800 mg in 15 mL tetrahydrofuran and 4 mL water) at 0° C. was added a solution of 580 mg di-tert-butyl dicarbonate followed by 317 mg poatssium carbonate and the resulting suspension stirred vigourously at 0° C. After 25 minutes, the reaction was quenched by the addition of excess saturated aqueous ammonium chloride and the mixture extracted with ethyl acetate. The organic portion was dried over sodium sulfate and concentrated in vacuo. The residue was purified by flash chromatography on silica gel (hexane:ethyl acetate, 1:1) to give the title compound (990 mg).

reactant | N-[4-(4-{2-[2-(3,5-dimethylphenyl)-5-nitro-1H-indol-3-yl]ethylamino}butyl)phenyl]methanesulfonamide | CC=1C=C(C=C(C1)C)C=1NC2=CC=C(C=C2C1CCNCCCCC1=CC=C(C=C1)NS(=O)(=O)C)[N+](=O)[O-] | C29H34N4O4S
reactant | water | 4 mL | O | H2O
reactant | di-tert-butyl dicarbonate | 580 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | carbonate | 317 mg | C([O-])([O-])=O
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | [2-{2-(3,5-dimethylphenyl)-5-nitro-1H-indol-3-yl]ethyl}-[4-(4-methanesulfonylaminophenyl)butyl]carbamic acid tert-butyl ester | 990 mg | C(C)(C)(C)OC(N(CCCCC1=CC=C(C=C1)NS(=O)(=O)C)CCC1=C(NC2=CC=C(C=C12)[N+](=O)[O-])C1=CC(=CC(=C1)C)C)=O | C34H42N4O6S
